* C:\Users\jpat614\Documents\GitHub\P4P_Project-130\LT_SPICE\Schmitt_trigger.asc
XU1 N001 vin vcc 0 vout level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 vref 5.6k
R2 vout N001 3.3k
V1 vcc 0 4.8
V2 vref 0 1.3
V3 vin 0 SINE(1 3 1)
.tran 0 100 0 0.01
* Inverting schmitt trigger design
* hysteresis at 3.5V and 0.5V
.lib UniversalOpAmp2.lib
.backanno
.end
